US04113767
100 g of pinacolone (1 mole) were initially introduced into a stirred flask and 154.5 g (1.5 moles) of sulfur dichloride were added dropwise in the course of 2 hours at 20° - 40° C, whilst stirring and cooling slightly, HCl being released via a condenser. After the mixture had been further stirred for 1 hour at 40° C, a solution of 90 g (2 moles) of dimethylamine in water (as an approximately 40% strength solution) was allowed to run in, over the course of about 30 minutes, at 60° - 80° C, while cooling with water and the mixture was stirred for a further 30 minutes at the same temperature. A solution of 140 g (3.5 moles) of NaOH in 300 ml of water was then added and the mixture was heated under reflux for 4 - 6 hours, dimethylamine being released as a gas via the condenser and being absorbed in water. After cooling to 60° - 70° C, the pH of the mixture was adjusted to 3.0 with hydrochloric acid (hydrogen sulfide being released as a gas and being absorbed in sodium hydroxide solution) and elemental sulfur, which had precipitated at the same time, was filtered off. 106 g (1.0 mole) of thiocarbohydrazide were added to the clear filtrate and the mixture was reacted at pH 1 and 50° - 80° C to give 6-tert.-butyl-3-mercapto-4-amino-1,2,4-triazin-5(4H)-one. This was very sparingly soluble in the reaction medium and could easily be isolated by filtering off. Yield: 150 g (or 75% of theory).

reactant | pinacolone | 1 mole, 100 g | CC(C(C)(C)C)=O | C6H12O
reactant | sulfur dichloride | 1.5 moles, 154.5 g | S(Cl)Cl | Cl2S
reactant | HCl | Cl | ClH
reactant | dimethylamine | 2 moles, 90 g | CNC | C2H7N
reactant | NaOH | 3.5 moles, 140 g | [OH-].[Na+]
reactant | thiocarbohydrazide | 1.0 mole, 106 g | NNC(=S)NN | CH6N4S
solvent | water | O | H2O
solvent | water | 300 ml | O | H2O
product | 6-tert.-butyl-3-mercapto-4-amino-1,2,4-triazin-5(4H)-one | C(C)(C)(C)C=1C(N(C(=NN1)S)N)=O | C7H12N4OS
